US07642267B2
The HCl salt of ethyl 2-chloro-acetimidate (3.90 g, 24.58 mmol) is added to a solution of N-ethyl-6-trifluoromethyl-pyridine-3,4-diamine (1.44 g, 7.02 mmol) in EtOH (20 mL) and refluxed for 3 h. The reaction mixture is cooled to room temperature and concentrated under reduced pressure. The residue is diluted with CH2Cl2, washed with NaHCO3 solution, dried over Na2SO4, and concentrated to obtain 2-chloromethyl-1-ethyl-6-trifluoromethyl-1H-imidazo[4,5-c]pyridine. 1H NMR (300 MHz, CDCl3): δ 9.14 (s, 1H), 7.66 (s, 1H), 7.26 (s, 1H), 4.87 (s, 2H), 4.40 (t, J=7.5 Hz, 2H), 1.58 (t, J=7.5 Hz, 3H).

reactant | HCl | Cl | ClH
reactant | ethyl 2-chloro-acetimidate | 24.58 mmol, 3.90 g | ClCC(OCC)=N | C4H8ClNO
reactant | N-ethyl-6-trifluoromethyl-pyridine-3,4-diamine | 7.02 mmol, 1.44 g | C(C)NC=1C=NC(=CC1N)C(F)(F)F | C8H10F3N3
solvent | EtOH | 20 mL | CCO | C2H6O
product | 2-chloromethyl-1-ethyl-6-trifluoromethyl-1H-imidazo[4,5-c]pyridine | ClCC=1N(C2=C(C=NC(=C2)C(F)(F)F)N1)CC | C10H9ClF3N3
